US04209512
Meanwhile, an acetone solution of crude potassium O,O-diethyl dithiophosphate was prepared by dissolving 20 g of O,O-diethyl dithiophosphate (purity about 90%) in 100 ml of acetone and then adding, with stirring, 8 g of anhydrous potassium carbonate to the solution in small portions at ambient temperature.

reactant | O,O-diethyl dithiophosphate | 20 g | P(=S)(OCC)(OCC)[S-]
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | potassium O,O-diethyl dithiophosphate | P(=S)(OCC)(OCC)[S-].[K+] | InChI=1S/C4H11O2PS2.K/c1-3-5-7(8,9)6-4-2;/h3-4H2,1-2H3,(H,8,9);/q;+1/p-1
